US08835420B2
Preparation x17: (S)-4-Amino-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylsulfonyl)pyrimidine-5-carbonitrile
(S)-4-Amino-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile (287 mg, 0.676 mmol) in acetonitrile (3 mL) and H2O (3 mL) was cooled to 0° C. Oxone® (1.04 g, 1.690 mmol) was added to give a yellow solution. The reaction mixture was stirred at 0° C. for 30 minutes, warmed to room temperature, and stirred for an additional 3 hours. The reaction mixture was subsequently diluted with EtOAc and washed with H2O (3×5 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to give the title compound, which was used without further purification.

reactant | (S)-4-Amino-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile | 0.676 mmol, 287 mg | NC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCOCC2)SC | C20H24N8OS
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | H2O | 3 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-4-Amino-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylsulfonyl)pyrimidine-5-carbonitrile | NC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCOCC2)S(=O)(=O)C | C20H24N8O3S
